US06548522B1
N-(2-Ethoxy-ethyl)-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 83.5-86.2° C. and MS: m/e=283 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and 2-ethoxy-ethylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 2-ethoxy-ethylamine | C(C)OCCN | C4H11NO
product | N-(2-Ethoxy-ethyl)-2,2-diphenyl-acetamide | C(C)OCCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H21NO2
